US05578592
p-Methoxybenzyl (6S,8R,9R)-10-oxo-9-phenylacetamido-7-thia-1-azatricyclo[6,2,0,03,6 ]dec-2-ene-2-carboxylate
Ethylene was bubbled into a solution of p-methoxybenzyl (6R,7R)-7-phenylacetamido-3-(trifluoromethanesulphonyloxy)ceph-3-em-4-carboxylate (0.50 g, 0.852 mmol) in ethyl acetate (500 ml) whilst a solution of diisopropylethylamine (0.15 ml, 0.852 mmol) in ethyl acetate (100 ml) was added dropwise over 2 h. After completion of the addition the mixture was left to stand for 18 h then the solvent was evaporated under reduced pressure. The residue was chromatographed to give the title compound (0.24 g, 61%), (Found: M+, 464.1411. C25H24N2O5S requires M, 464.1406); νmax (CH2Cl2) 1786, 1722, 1686, 1604 cm-1 ; δH (CDCl3) 2.08 (1H, m), 2.46 (1H, dtd, J 10.4, 9.3, 3.2), 3.16 (1H, dtd, J 15.8, 9.4, 1.6), 3.28 (1H, ddt, J 15.8, 8.8, 3.0). 3.63 (2H, ABq, J 16.1), 3.80 (3H, s), 4.32 (1H, dddd, J 9.3, 8.2, 2.8, 1.5), 4.94 (1H, d, J 5.0), 5.18 (2H, ABq, J 11.9), 5.76 (1H, d, J 8.8, 5.0), 5.97 (1H, d, J 8.8), 6.87 (2H, d, J 8.7), 7.26 (7H, m).

reactant | Ethylene | C=C | C2H4
reactant | p-methoxybenzyl (6R,7R)-7-phenylacetamido-3-(trifluoromethanesulphonyloxy)ceph-3-em-4-carboxylate | 0.852 mmol, 0.50 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C24H21F3N2O8S2
reactant | diisopropylethylamine | 0.852 mmol, 0.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | p-Methoxybenzyl (6S,8R,9R)-10-oxo-9-phenylacetamido-7-thia-1-azatricyclo[6,2,0,03,6 ]dec-2-ene-2-carboxylate | 0.24 g, 61% | O=C1[C@H]([C@H]2S[C@H]3CCC3=C(N12)C(=O)OCC1=CC=C(C=C1)OC)NC(CC1=CC=CC=C1)=O | C25H24N2O5S
